US08530460B2
4-Iodo-2-isopropoxy-pyridine
To 2.30 g (10.4 mmol) 4-iodo-1H-pyridin-2-one in 130 mL DCM are added 0.88 mL (11.4 mmol) 2-propanol and 3.00 (11.4 mmol) triphenylphosphine. After cooling down to 0° C. 2.23 mL (11.4 mmol) DIAD are added dropwise. After 5 min the cooling is removed and the mixture is stirred at r.t. for 2 h. The reaction mixture is washed with water and brine, dried with Na2SO4 and the solvent is removed in vacuo. The crude product is purified by column chromatography (silica gel, heptane/EtOAc 90/10).

reactant | 4-iodo-1H-pyridin-2-one | 10.4 mmol, 2.30 g | IC1=CC(NC=C1)=O | C5H4INO
reactant | 2-propanol | 11.4 mmol, 0.88 mL | CC(C)O | C3H8O
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 11.4 mmol, 2.23 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | DCM | 130 mL | C(Cl)Cl | CH2Cl2
product | 4-Iodo-2-isopropoxy-pyridine | IC1=CC(=NC=C1)OC(C)C | C8H10INO
